US04269980
3-Methyl-8-[3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-c]pyrimidine
A mixture of 1.0 g. of 4-hydrazino-5-(3-trifluoromethylphenyl)pyrimidine and 10-12 ml. of triethyl orthoacetate is stirred at room temperature. Complete solution is effected in about 10 minutes and stirring is continued for an additional 30-40 minutes until a new precipitate begins to form. This precipitate is collected in 3 crops over a 4 hour period to yield 0.85 g. (77%) of product. The product is recrystallized from chloroform-hexane to give the title compound, m.p. 157°-159° C.

reactant | 4-hydrazino-5-(3-trifluoromethylphenyl)pyrimidine | N(N)C1=NC=NC=C1C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3-Methyl-8-[3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-c]pyrimidine | CC1=NN=C2N1C=NC=C2C2=CC(=CC=C2)C(F)(F)F | C13H9F3N4
